US06667301B2
(S)-2-(4-tert-Butylphenyl)-1-methylethylamine
A mixture of 1 g (4.3 mmole) (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one p(see preparation 4, step 2), 2 g (31.74 mmole) ammonium formate and 0.1 g 10% palladium on carbon in 25 mL methanol was heated under reflux for 2 hrs. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was partitioned between 10 mL 10% sodium carbonate and 25 mL ethyl acetate. The organic phase was dried (magnesium sulfate) and concentrated under reduced pressure. The title compound was isolated as the hydrochloride salt from diethyl ether, 0.93 g (95%), m.p. 259.5-261.3° C.

reactant | (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one | 4.3 mmole, 1 g | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1[C@@H](NC(O1)=O)C | C14H19NO2
reactant | ammonium formate | 31.74 mmole, 2 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | methanol | 25 mL | CO | CH4O
product | (S)-2-(4-tert-Butylphenyl)-1-methylethylamine | C(C)(C)(C)C1=CC=C(C=C1)C[C@H](C)N | C13H21N
